US09260425B2
To a solution of 4-methyl-2,3′-bipyridin-5-amine (185 g, 1 mol) in AcOH (27 L) was added aq. NaNO2 solution (82 g, 1.2 mol, 100 mL). The mixture was stirred for 16 h at room temperature. After reaction, the solvent was removed and the residue was purified by silica-gel column chromatography (mobile phase: EA:PE=1:1) to give 5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridine as a yellow solid (98 g, 50%)

reactant | 4-methyl-2,3′-bipyridin-5-amine | 1 mol, 185 g | CC1=CC(=NC=C1N)C=1C=NC=CC1 | C11H11N3
reactant | NaNO2 | 1.2 mol, 100 mL, 82 g | N(=O)[O-].[Na+]
solvent | AcOH | 27 L | CC(=O)O | C2H4O2
product | 5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridine | 98 g, 50% | N1=CC(=CC=C1)C=1C=C2C(=CN1)NN=C2 | C11H8N4
